US08791134B2
3-(Acetyloxy)-2-(hydroxyimino)propyl acetate was prepared from 3-(acetyloxy)-2-oxopropyl acetate (Tetrahedron Lett., 2001; 3331-3334) and hydroxylamine hydrochloride using conditions of General Method 1. 1H NMR (250 MHz, CHLOROFORM-d) δ 8.32 (1H, br. s.), 5.02 (2H, s), 4.75 (2H, s), 2.11 (3H, s), 2.10 (3H, s).

reactant | 3-(acetyloxy)-2-oxopropyl acetate | C(C)(=O)OCC(COC(C)=O)=O | C7H10O5
reactant | hydroxylamine hydrochloride | Cl.NO
product | 3-(Acetyloxy)-2-(hydroxyimino)propyl acetate | C(C)(=O)OCC(COC(C)=O)=NO | C7H11NO5
